US09102642B2
A mixture of 4-(4-bromo-2-ethylphenyl)-2,2,6,6-tetramethylpyran-3,5-dione (0.20 g, 0.57 mmol), 4-chloro-3-fluorophenol (0.41 g, 2.83 mmol), cesium carbonate (0.40 g, 1.13 mmol), copper(II) trifluoromethanesulfonate (0.01 g, 0.03 mmol) and powdered molecular sieve, 4 Å (0.40 g) in dry toluene (3.5 ml) is heated to 160° C. under microwave irradiation for 1 hour. The mixture is cooled to room temperature diluted with dichloromethane and 2M aqueous hydrochloric acid (10 ml) and passed through a phase separation cartridge. The organic phase is dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated under reduced pressure. The residue is dissolved in N,N-dimethylformamide (1 ml) and purified by preparative reverse phase HPLC to give 4-[4-(4-chloro-3-fluorophenoxy)-2-ethylphenyl]-2,2,6,6-tetramethylpyran-3,5-dione.

reactant | 4-(4-bromo-2-ethylphenyl)-2,2,6,6-tetramethylpyran-3,5-dione | 0.57 mmol, 0.20 g | BrC1=CC(=C(C=C1)C1C(C(OC(C1=O)(C)C)(C)C)=O)CC | C17H21BrO3
reactant | 4-chloro-3-fluorophenol | 2.83 mmol, 0.41 g | ClC1=C(C=C(C=C1)O)F | C6H4ClFO
reactant | cesium carbonate | 1.13 mmol, 0.40 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 3.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | hydrochloric acid | 2M, 10 ml | Cl | ClH
catalyst | copper(II) trifluoromethanesulfonate | 0.03 mmol, 0.01 g | FC(S(=O)(=O)[O-])(F)F.[Cu+2].FC(S(=O)(=O)[O-])(F)F
product | 4-[4-(4-chloro-3-fluorophenoxy)-2-ethylphenyl]-2,2,6,6-tetramethylpyran-3,5-dione | ClC1=C(C=C(OC2=CC(=C(C=C2)C2C(C(OC(C2=O)(C)C)(C)C)=O)CC)C=C1)F | C23H24ClFO4
